US05604237
1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[2-(3-nitrophenyl)ethyl]isoquinoline
A mixture of 1-(2-bromoethyl)-3-nitrobenzene (2.3 g), 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride (2.3 g) and potassium carbonate (3 g) in DMF (50 ml) was heated at 50° for 12 h. The mixture was then filtered and the filtrate evaporated. The residue was then taken up in water, extracted with dichloromethane, dried, evaporated and purified by column chromatography eluting with dichloromethane/methanol (99:1) to give the title compound (1.4 g) as a yellow oil. NMR includes signals at d 3.6 (2H,s,N--CH2Ar), 3.75 (6H,s,OCH3).

reactant | 1-(2-bromoethyl)-3-nitrobenzene | 2.3 g | BrCCC1=CC(=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride | 2.3 g | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[2-(3-nitrophenyl)ethyl]isoquinoline | 1.4 g | COC=1C=C2CCN(CC2=CC1OC)CCC1=CC(=CC=C1)[N+](=O)[O-] | C19H22N2O4
